US05013730
Chlorokojic acid (5 mmol) and 4-methylthiopyrimidine (5 mmol) were stirred at 170° C. for 10 minutes. The mixture melted, turned black, resolidified and was triturated with acetone to give as a crude solid, 1-(5-hydroxypyran-4-on-2-yl)-4-methylthiopyrimidinium chloride hydrochloride salt; (DMSO-d6)/130° C., 2.80(s,3H); 5.79(s,2H); 6.65(s,1H); 8.08(s,1H); 8.15(q,1H); 9.05(q,1H); 9.65(s,1H).

reactant | Chlorokojic acid | 5 mmol | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
reactant | 4-methylthiopyrimidine | 5 mmol | CSC1=NC=NC=C1 | C5H6N2S
product | 1-(5-hydroxypyran-4-on-2-yl)-4-methylthiopyrimidinium chloride hydrochloride salt | Cl.[Cl-].OC=1C(C=C(OC1)[N+]1=CN=C(C=C1)SC)=O | InChI=1S/C10H8N2O3S.2ClH/c1-16-9-2-3-12(6-11-9)10-4-7(13)8(14)5-15-10;;/h2-6H,1H3;2*1H
